US08754101B2
Intermediate 3: Ethyl 3-({[(1,1-dimethylethyl)(diethyl)silyl]oxy}methyl)imidazo[1,2-a]pyridine-8-carboxylate
To a stirred solution of ethyl 3-(hydroxymethyl)imidazo[1,2-a]pyridine-8-carboxylate (2.7 g, 12.26 mmol) in DCM (100 mL) under nitrogen was added tert-butylchlorodimethyl silane (4 g, 26.5 mmol), 4-dimethylamino pyridine (0.32 g, 2.62 mmol) and triethylamine (3 mL, 21.52 mmol) and the reaction mixture heated at 50° C. under nitrogen for 16 hours. The mixture was concentrated in vacuo and the residue was dissolved in DCM and purified on a silica cartridge (100 g) using a 0-30% methanol-DCM gradient over 60 mins. The product containing fractions were combined and evaporated in vacuo to give the title compound as an off-white solid (4.174 g).

reactant | ethyl 3-(hydroxymethyl)imidazo[1,2-a]pyridine-8-carboxylate | 12.26 mmol, 2.7 g | OCC1=CN=C2N1C=CC=C2C(=O)OCC | C11H12N2O3
reactant | tert-butylchlorodimethyl silane | 26.5 mmol, 4 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | triethylamine | 21.52 mmol, 3 mL | C(C)N(CC)CC | C6H15N
reactant | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylamino pyridine | 2.62 mmol, 0.32 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 3-({[(1,1-dimethylethyl)(diethyl)silyl]oxy}methyl)imidazo[1,2-a]pyridine-8-carboxylate | 4.174 g | CC(C)(C)[Si](OCC1=CN=C2N1C=CC=C2C(=O)OCC)(CC)CC | C19H30N2O3Si
